US08648056B2
The Present Invention: Lidocaine pH 4 Group
Sodium chondroitin sulfate (1 g) and lidocaine hydrochloride (2 g) were dissolved in distilled water for injection (80 ml). After being adjusted to pH 4 by addition of a sufficient quantity of hydrochloric acid, the solution was added with distilled water for injection up to the total volume of 100 ml to prepare the composition for local anesthesia of the present invention.

reactant | lidocaine hydrochloride | 2 g | CCN(CC)CC(=O)NC=1C(=CC=CC1C)C.Cl
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | Lidocaine | CCN(CC)CC(=O)NC=1C(=CC=CC1C)C | C14H22N2O
